US06825180B2
To a mixture of (R)-3-(5-acetoxyhexyl)-1,5-dimethylpyrido[2,3-d]pyrimidine-2,4,7(1H,3H,8H)-trione (440 mg, 1.259 mmol), dlchloromethane (10 ml), pyridine (0.5 ml, 6.29 mmol), cooled in an ice bath, was added trifluoromethanesulfonic anhydride (0.42 ml, 2.52 mmol) dropwise. After stirring for 1 hour, the cooling bath was removed and the solution was concentrated under reduced pressure. The residue was purified by short column chromatography on silica gel eluting with ethyl acetate to afford (R)-3-(5-acetoxyhexyl)-1,5-dimethyl-7-trifluoromethanesulfonyloxypyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione 405 mg, 67% yield) as an orange powder. 1H NMR (300 MHz, CDCl3) δ 1.20 (d, 3H), 1.30-1.75 (m, 6H), 2.02 (s, 3H), 2.87 (s, 3H), 3.62 (s, 3H), 4.02 (t, 2H), 4.89 (sextet, 1H), 6.78 (s, 1H).

reactant | (R)-3-(5-acetoxyhexyl)-1,5-dimethylpyrido[2,3-d]pyrimidine-2,4,7(1H,3H,8H)-trione | 1.259 mmol, 440 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(N2)=O)C)C)=O)C | C17H23N3O5
reactant | pyridine | 6.29 mmol, 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.52 mmol, 0.42 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | (R)-3-(5-acetoxyhexyl)-1,5-dimethyl-7-trifluoromethanesulfonyloxypyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 405 mg, 67% yield | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)OS(=O)(=O)C(F)(F)F)C)C)=O)C | C18H22F3N3O7S
